US07390805B2
Step 83.3: (3-Chloro-benzyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine
A solution of 0.79 ml (10 mmol) thionylchloride in 5.5 ml of toluene is cooled to −10° C. Solid {4-[4-(3-chloro-benzylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol is added and the suspension stirred at 0° C. for 2 h and then at RT for 17 h. The solid is filtered off, washed with toluene and suspended in water (3 ml). The mixture is treated with saturated sodium bicarbonate solution (3 ml) and stirred for 10 min. The crystals are collected by filtration washed with water, a small amount of ethanol and ether and dried to give the title compound; m.p. decomposition ˜300° C.; Rf (dichloromethane/methanol/conc. ammonia 90:10:1)=0.61; MS-ES+: (M+H)+=383.

reactant | thionylchloride | 10 mmol, 0.79 ml | S(=O)(Cl)Cl | Cl2OS
reactant | {4-[4-(3-chloro-benzylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol | ClC=1C=C(CNC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)CO)C=CC1 | C20H17ClN4O
solvent | toluene | 5.5 ml | C1(=CC=CC=C1)C | C7H8
product | (3-Chloro-benzyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | ClC=1C=C(CNC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)CCl)C=CC1 | C20H16Cl2N4
